US04529604
To 200 ml. (0.20 mole) of a 1M solution of diborane in tetrahydrofuran cooled in an ice bath was added dropwise a solution of 27.8 g. (0.10 mole) of N,N-di-(n-propyl)-3,4-dimethoxyphenylacetamide in about 200 ml. of anhydrous tetrahydrofuran, under argon. The mixture was refluxed for one and one-quarter hours, cooled and methanol added carefully. When the bubbling subsided the reaction mixture was evaporated in vacuo. The residue was dissolved in methanol, ethereal hydrogen chloride was added and the mixture evaporated in vacuo slowly. This residue was dissolved in water, washed with ether, basified and extracted with ether. The dried solution was evaporated to yield N,N-di-(n-propyl)-3,4-dimethoxyphenethylamine.

reactant | diborane | B#B | B2
reactant | N,N-di-(n-propyl)-3,4-dimethoxyphenylacetamide | 0.10 mole | C(CC)N(C(CC1=CC(=C(C=C1)OC)OC)=O)CCC | C16H25NO3
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N,N-di-(n-propyl)-3,4-dimethoxyphenethylamine | C(CC)N(CCC)CCC1=CC(=C(C=C1)OC)OC | C16H27NO2
